US07105567B2
To a solution of [(4-dimethylaminophenyl)methyl](4-fluorophenyl)amine (0.52 g) in benzene (5 mL) was added 2,6-diisopropylphenyl isocyanate (0.46 mL) and the mixture was stirred at room temperature for 5 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography. The obtained crystals were subjected to recrystallization from a mixed solvent of diisopropyl ether and hexane to give N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-fluorophenyl)urea (0.38 g). melting point: 124–125° C.

reactant | [(4-dimethylaminophenyl)methyl](4-fluorophenyl)amine | 0.52 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)F)C | C15H17FN2
reactant | 2,6-diisopropylphenyl isocyanate | 0.46 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-fluorophenyl)urea | 0.38 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)F)CC1=CC=C(C=C1)N(C)C)=O | C28H34FN3O
